US08912169B2
Step 4: Synthesis of {4-[tert-Butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl)-amino]-1-hydroxy-cyclohexyl}-acetic acid
A solution of {4-[tert-Butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl)-amino]-1-hydroxy-cyclohexyl}-acetic acid benzyl ester (0.540 g, 1.07 mmol) in methanol (15 mL) was purged with argon for 5 min. Palladium on carbon (10%, 0.127 g) was added, the flask evacuated, and the reaction stirred under a H2 atmosphere for 19 hr. The reaction was filtered through a Celite-plugged filter frit, washed with methanol and DCM, and concentrated. The crude product was carried forward without purification. ESI-MS m/z 439 (M+Na)+.

reactant | {4-[tert-Butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl)-amino]-1-hydroxy-cyclohexyl}-acetic acid benzyl ester | 1.07 mmol, 0.540 g | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)N(CCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)O)=O | C27H42N2O7
solvent | methanol | 15 mL | CO | CH4O
catalyst | Palladium on carbon | 0.127 g | [Pd] | Pd
product | {4-[tert-Butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl)-amino]-1-hydroxy-cyclohexyl}-acetic acid | C(C)(C)(C)OC(=O)N(C1CCC(CC1)(O)CC(=O)O)CCNC(=O)OC(C)(C)C | C20H36N2O7
